Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.94854760501
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:5])#[C:8][H:9].[O:1][C:2]#[C:4][C:6]([H:7])([H:10])[H:11],1.5687632699599998
[H:1][C:2]#[C:3][C:4][O:10][H:11].[O:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.54799562739
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14],5.35545076845
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:10]([C:7]([O:6])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.8259376521100001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.839429704890001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:6],1.74050582029
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:11],1.99964559832
[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.99110588525
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:5],1.7753751382599998
[C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.45731455252
[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.08717184498
[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.3944608664099984
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-0.98257277832
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-1.91883637526
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8]>>[H:8].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7],5.53740227362
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:8]#[C:9][H:10].[H:1][C:7][H:11],7.43394452813
[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-6.59364659759
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.77266516567
[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[C:7](=[O:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7](=[O:8])[H:9],-3.4710309193300004
[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-1.7004264269299998
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],4.64543841442
[O:1][C@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])([C:4](=[O:5])[H:6])([H:9])[H:10].[O:1]=[C:7][H:8],0.3253927689
[H:1][C:2]([C:3]([H:4])[C:7]([H:8])([H:9])[H:10])([H:13])[C:14][C:11]([C:5][H:6])[H:12]>>[H:1][C:2]1=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1,-4.42778166466
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.82018027966
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:6],1.91828133221
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14].[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10],3.65084540924
